US05149817
4-Hydroxy-4-(3,4-dichlorophenyl)piperidine (II-1)
A mixture of 64.2 g of 1-ethoxycarbonyl-4-hydroxy-4-(3,4-dichlorophenyl)piperidine (X-1) and a solution of 72.4 g of KOH in 700 ml of nBuOH is refluxed for 2 hours and evaporated. The reaction mixture is concentrated under reduced pressure and extracted with ethyl acetate. The organic layer is washed with water, dried and evaporated. The resulting crystalline residue is recrystallized from ethyl acetate to prepare 44.7 g (Yield: 90.0%) of the compound (II-1). mp. 144.5°-146.0° C.

reactant | 1-ethoxycarbonyl-4-hydroxy-4-(3,4-dichlorophenyl)piperidine | 64.2 g | C(C)OC(=O)N1CCC(CC1)(C1=CC(=C(C=C1)Cl)Cl)O | C14H17Cl2NO3
reactant | KOH | 72.4 g | [OH-].[K+]
solvent | nBuOH | 700 ml | C(CCC)O | C4H10O
product | 4-Hydroxy-4-(3,4-dichlorophenyl)piperidine | 44.7 g, Yield: 90.0% | OC1(CCNCC1)C1=CC(=C(C=C1)Cl)Cl | C11H13Cl2NO
